### PR TITLE
[Merged by Bors] - feat: generalize tangent cone lemmas to TVS

### PR DESCRIPTION
**Pull request by eric-wieser**
Without any changes to the proofs, these lemmas do not need a normed space.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 1]
```diff
@@ -96,6 +98,14 @@ theorem tangentCone_mono (h : s ⊆ t) : tangentConeAt 𝕜 s x ⊆ tangentConeA
...
+
+section Normed
+variable [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+variable [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+variable [NormedAddCommGroup G] [NormedSpace ℝ G]
+variable {x y : E} {s t : Set E}
+
 /-- Auxiliary lemma ensuring that, under the assumptions defining the tangent cone,
 the sequence `d` tends to 0 at infinity. -/
 theorem tangentConeAt.lim_zero {α : Type*} (l : Filter α) {c : α → 𝕜} {d : α → E}
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/TangentCone.lean:111]: I know this is not the focus of your PR, but this is definitely true in any TVS: since `‖c n‖` goes to infinity, `c n` is eventually invertible, and `(c n)⁻¹` goes to zero. So `d n` tends to `0 • y = 0`. Am I saying something stupid?

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/TangentCone.lean:111]: I can make progress with
```

theorem Filter.EventuallyEq.inv_smul_smul_cancel {α G K : Type*} [GroupWithZero G] [MulAction G K]
    {f : α → G} {g : α → K}
    {l : Filter α} (hg : Tendsto f l (𝓟 {0}ᶜ)) :
    (fun x ↦ (f x)⁻¹ • f x • g x) =ᶠ[l] fun x ↦ g x := by
  filter_upwards [hg.le_comap <| preimage_mem_comap (m := f) (mem_principal_self {0}ᶜ)] with x hx
  exact inv_smul_smul₀ hx _

theorem Filter.EventuallyEq.inv_smul_smul_cancel_atTop
    {α G K : Type*} [GroupWithZero G] [MulAction G K] [Preorder G] [NoMaxOrder G]
    {f : α → G} {g : α → K} {l : Filter α} (hg : Tendsto f l atTop) :
    (fun x ↦ (f x)⁻¹ • f x • g x) =ᶠ[l] fun x ↦ g x :=
  inv_smul_smul_cancel <| hg.mono_right <| le_principal_iff.mpr <|
    mem_of_superset (Ioi_mem_atTop 0) <| by simp
```
but I seem to need that `𝕜` is linearly ordered.

Comment (ADedecker) [reply Mathlib/Analysis/Calculus/TangentCone.lean:111]: It's not `c` that goes to infinity, but its norm, aka `c` tends to to cobounded, and you should be able to use [Filter.tendsto_inv₀_cobounded'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Field/Lemmas.html#Filter.tendsto_inv%E2%82%80_cobounded').

Comment (ADedecker) [reply Mathlib/Analysis/Calculus/TangentCone.lean:111]: (together with [tendsto_norm_atTop_iff_cobounded](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Bounded.html#tendsto_norm_atTop_iff_cobounded))

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/TangentCone.lean:111]: Thanks, I have this working in #21065, which significantly shrinks the `Normed` islands introduced in this PR. I'd prefer not to wait until everything is generalized; the idea behind this weird sectioning is to avoid any conflicts growing in the lemmas themselves, which would otherwise be the main reason to try and do everything at once.

**Comment by ADedecker** [comment]
Thanks and sorry for the delay!

bors merge
